### PR TITLE
[Merged by Bors] - feat: port CategoryTheory.Monad.Basic

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monad/Basic.lean [hunk 1]
```diff
@@ -267,104 +253,113 @@ theorem comp_toNatTrans {T₁ T₂ T₃ : Comonad C} (f : T₁ ⟶ T₂) (g : T
...
+  map f := f.toNatTrans
 #align category_theory.monad_to_functor CategoryTheory.monadToFunctor
 
 instance : Faithful (monadToFunctor C) where
 
-@[simp]
+/-- Porting note: removed @[simp] as the linter complains of the LHS being reducible to
+  (comonadToFunctor _).mapIso (Iso.mk (MonadHom.mk f.hom) (MonadHom.mk f.inv))
+  which does not even compile
+-/
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Monad/Basic.lean:315]: That doesn't sound very promising. If you have `set_option pp.all true`, does it reduce to something that typechecks? Should we have a new simp-lemma for that LHS, so that the total behaviour of the simp-set doesn't change?

Comment (Parcly-Taxel) [reply Mathlib/CategoryTheory/Monad/Basic.lean:315]: OK, consider `monadToFunctor_mapIso_monad_iso_mk` first. simpNF says the LHS is reducible to
```lean
CategoryTheory.Functor.mapIso (CategoryTheory.monadToFunctor C)
  (CategoryTheory.Iso.mk (CategoryTheory.MonadHom.mk f.hom) (CategoryTheory.MonadHom.mk f.inv))
```

But when I make a new theorem with this simplification
```lean
theorem monadToFunctor_mapIso_monad_iso_mk' {M N : Monad C} (f : (M : C ⥤ C) ≅ N) :
    CategoryTheory.Functor.mapIso (CategoryTheory.monadToFunctor C)
    (CategoryTheory.Iso.mk (CategoryTheory.MonadHom.mk f.hom) (CategoryTheory.MonadHom.mk f.inv)) = f :=
  by aesop_cat
```

it is not the _body_ of the proof that throws an error, but `MonadHom.mk f.hom` and `MonadHom.mk f.inv` _in the "simplified" LHS itself_!

```
tactic 'aesop' failed, failed to prove the goal after exhaustive search.
T: Monad C
G: Comonad C
MN: Monad C
f: M.toFunctor ≅ N.toFunctor
⊢ ∀ (X : C), (Monad.η M).app X ≫ f.hom.app X = (Monad.η N).app X
Basic.lean:327:28
tactic 'aesop' failed, failed to prove the goal after exhaustive search.
T: Monad C
G: Comonad C
MN: Monad C
f: M.toFunctor ≅ N.toFunctor
⊢ ∀ (X : C),
  (Monad.μ M).app X ≫ f.hom.app X = (M.toFunctor.map (f.hom.app X) ≫ f.hom.app (N.toFunctor.obj X)) ≫ (Monad.μ N).app X
Basic.lean:327:63
tactic 'aesop' failed, failed to prove the goal after exhaustive search.
T: Monad C
G: Comonad C
MN: Monad C
f: M.toFunctor ≅ N.toFunctor
⊢ ∀ (X : C), (Monad.η N).app X ≫ f.inv.app X = (Monad.η M).app X
Basic.lean:327:63
tactic 'aesop' failed, failed to prove the goal after exhaustive search.
T: Monad C
G: Comonad C
MN: Monad C
f: M.toFunctor ≅ N.toFunctor
⊢ ∀ (X : C),
  (Monad.μ N).app X ≫ f.inv.app X = (N.toFunctor.map (f.inv.app X) ≫ f.inv.app (M.toFunctor.obj X)) ≫ (Monad.μ M).app X
```

Comment (jcommelin) [reply Mathlib/CategoryTheory/Monad/Basic.lean:315]: I suggest you inspect the statement with `pp.all` enabled. That way you'll have `@`s all over the place, but it will also make clear what is actually going on.

Comment (Parcly-Taxel) [reply Mathlib/CategoryTheory/Monad/Basic.lean:315]: @jcommelin I've found that exactly four extra arguments – no more, no less – are needed for `monadToFunctor_mapIso_monad_iso_mk'` to type-check and from there compile:
```lean
@[simp]
theorem monadToFunctor_mapIso_monad_iso_mk' {M N : Monad C} (f : (M : C ⥤ C) ≅ N)
    (f_η : ∀ (X : C), M.η.app X ≫ f.hom.app X = N.η.app X)
    (f_μ : ∀ (X : C), M.μ.app X ≫ f.hom.app X =
    (M.map (f.hom.app X) ≫ f.hom.app (N.obj X)) ≫ N.μ.app X)
    (f_η' : ∀ (X : C), N.η.app X ≫ f.inv.app X = M.η.app X)
    (f_μ' : ∀ (X : C), N.μ.app X ≫ f.inv.app X =
    (N.map (f.inv.app X) ≫ f.inv.app (M.obj X)) ≫ M.μ.app X):
    (monadToFunctor C).mapIso (Iso.mk (MonadHom.mk f.hom) (MonadHom.mk f.inv)) = f := by
  aesop_cat
```
But `f_η'` and `f_μ'` are not in the original theorem and I get a new simpNF error:
```
#check CategoryTheory.monadToFunctor_mapIso_monad_iso_mk' /- Left-hand side does not simplify, when using the simp lemma on itself.
This usually means that it will never apply.
```
What do I do now?

Comment (jcommelin) [reply Mathlib/CategoryTheory/Monad/Basic.lean:315]: Hmm, thanks for debugging. It's really quite annoying that this new statement is now also flagged by the simp linter. I had expected that it would be a good simp lemma.
Please report in the porting note that you made this attempt, but that the simp linter was still not satisfied.

Comment (Parcly-Taxel) [reply Mathlib/CategoryTheory/Monad/Basic.lean]: Done.

**Comment by ChrisHughes24** [comment]
bors merge
